US08039469B2
To a stirred solution of triphosgene (120 mg, 0.40 mmol) in CH2Cl2 (3 mL) was added 4-[4-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-yloxy)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenylamine (200 mg, 0.5 mmol) at 25° C. The reaction mixture was stirred for 15 min and 4-aminobenzamide (204 mg, 1.5 mmol) and NEt3 (692 μL, 5 mmol) were added and the reaction mixture was stirred for additional 1 hr. The solvents were removed and the crude mixture was purified by semi-prep-HPLC (NH3-method) to give 4-(3-{4-[4-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-yloxy)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenyl}-ureido)-benzamide (42 mg, 15% yield) MS (ESI) m/z 559.

reactant | triphosgene | 0.40 mmol, 120 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-[4-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-yloxy)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenylamine | 0.5 mmol, 200 mg | CN1C2CC(CC1CC2)OC2=NC(=NC(=N2)N2CCOCC2)C2=CC=C(C=C2)N | C21H28N6O2
reactant | 4-aminobenzamide | 1.5 mmol, 204 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | NEt3 | 5 mmol, 692 μL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-{4-[4-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-yloxy)-6-morpholin-4-yl-[1,3,5]triazin-2-yl]-phenyl}-ureido)-benzamide | 42 mg, 15% yield | CN1C2CC(CC1CC2)OC2=NC(=NC(=N2)N2CCOCC2)C2=CC=C(C=C2)NC(NC2=CC=C(C(=O)N)C=C2)=O | C29H34N8O4
